US07915267B2
ethyl 5-(cyanomethyl)-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate
To a mixture of ethyl 5-(bromomethyl)-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate (2000 mg, 6.31 mmol) in DMF (10 mL) was added sodium cyanide (649 mg, 13.2 mmol) at room temperature, and the mixture was stirred for 12 hr. The reaction mixture was acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as a pale-brown powder (300 mg, 18%).

reactant | ethyl 5-(bromomethyl)-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate | 6.31 mmol, 2000 mg | BrCC1=CSC=2N=C(NC(C21)=O)C(=O)OCC | C10H9BrN2O3S
reactant | sodium cyanide | 13.2 mmol, 649 mg | [C-]#N.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ethyl 5-(cyanomethyl)-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate | 300 mg, 18% | C(#N)CC1=CSC=2N=C(NC(C21)=O)C(=O)OCC | C11H9N3O3S
